US08937078B2
Step C: Preparation of 1-[4-oxo-6-o-tolyl-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
A mixture of potassium carbonate (85.4 mg 0.618 mmol), 2-methylphenylboronic acid (63.3 mg, 0.466 mmol), 1-[6-iodo-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (110 mg, 0.204 mmol), and THF (1.5 ml) was degassed for 5 minutes with nitrogen in a sealable tube. The dichloromethane adduct of 1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium (20.2 mg, 0.0246 mmol) was added to the reaction mixture and the pressure tube was sealed. The reaction mixture was stirred at 80° C. for 18 h. The reaction mixture was cooled to 23° C., diluted with DCM (10 ml), and filtered. The filtrate was concentrated. The residue was purified by FCC (3-40% EtOAc/hexanes) to yield the titled compound (92.0 mg, 90%). MS (ESI): mass calcd. for C27H32N4O4Si, 504.22; m/z found, 446.6 [M−CH2OCH2CH2+H]+. 1H NMR (600 MHz, CDCl3): 8.68 (d, J=0.6 Hz, 1H), 8.31-8.30 (m, 1H), 8.18 (d, J=0.6 Hz, 1H), 7.79 (dd, J=8.3, 2.1 Hz, 1H), 7.76-7.74 (m, 1H), 7.33-7.28 (m, 4H), 5.91 (s, 2H), 4.39-4.35 (m, 2H), 4.37 (q, J=7.2 Hz, 2H), 2.31 (s, 3H), 1.39 (t, J=7.1 Hz, 3H), 0.83-0.79 (m, 2H), −0.08 (s, 9H).

reactant | potassium carbonate | 0.618 mmol, 85.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylphenylboronic acid | 0.466 mmol, 63.3 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | 1-[6-iodo-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.204 mmol, 110 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)I | C20H25IN4O4Si
reactant | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloro palladium | 0.0246 mmol, 20.2 mg | Cl[Pd]Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[4-oxo-6-o-tolyl-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 92.0 mg, 90% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)C1=C(C=CC=C1)C | C27H32N4O4Si
